US07053060B2
To a solution of 2-(4-allyloxybenzyl)phenol (0.20 g) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.45 g) in dichloromethane (8.5 mL) was added boron trifluoride-diethyl ether complex (0.12 g), and the mixture was stirred at room temperature for 2 hours. A saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/1) to give 2-(4-allyloxybenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.44 g).

reactant | 2-(4-allyloxybenzyl)phenol | 0.20 g | C(C=C)OC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C16H16O2
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 0.45 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 8.5 mL | ClCCl | CH2Cl2
product | 2-(4-allyloxybenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.44 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OCC=C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C30H34O11
